US05451677
(S)-2-[[4-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]phenoxy]methyl]oxirane
A solution of 10.0 g (50.0 mmol) of 4-benzyloxyphenol, 9.04 g (60.0 mmol) of tert-butyldimethylsilyl chloride, and 4.42 g (65.0 mmol) of imidazole in dimethylforamide (DMF) was allowed to stir at ambient temperature overnight. The mixture was then diluted with ethyl acetate, washed sequentially with water, 1 M aqueous sodium bisulfate solution, 1 M aqueous sodium hydroxide solution, and brine, dried over magnesium sulfate, and concentrated to give a white solid. The unpurified compound was dissolved in 40 mL of ethyl acetate and allowed to stir over 20% palladium hydroxide on carbon under an atmosphere of hydrogen overnight. The reaction mixture was then filtered through a pad of Celite and concentrated. The resultant phenol was dissolved in 40 mL of DMF and added dropwise over a 30-min period via cannula to a mixture of 2.60 g (65.0 mmol) of sodium hydride (60% dispersion in mineral oil) at 0° C. A 10-mL portion of DMF was added. After the mixture was allowed to stir at 0° C. for 30 min, a solution of 14.3 g (55.0 mmol) of (2S)-glycidyl 3-nitrobenzene sulfonate in 40 mL of DMF was added dropwise over a 20-min period. After the reaction was judged to be complete by TLC analysis, it was quenched with water, diluted with ethyl acetate, washed sequentially with water, 1 M aqueous sodium hydroxide solution, and brine, dried over magnesium sulfate, and concentrated. Purification by flash chromatography (silica gel, 10% ethyl acetate/hexane) gave 5.04 g (36% overall yield) of the title compound: 1H NMR (400 MHz, CD3OD) δ6.82 (d, 2H, J=9.1 Hz), 6.74 (d, 2H, J=9.1 Hz), 4.22 (dd, 1 H, J=2.6, 11.2 Hz), 3.79 (dd, 1H, J=6.2, 11.2 Hz), 3.30 (m, 1H), 2.84 (t, 1 H, J=4.6 Hz), 2.71 (dd, 1H, J=2.7, 5.0 Hz), 0.97 (s, 9H), 0.15 (s, 6H).

reactant | 4-benzyloxyphenol | 50.0 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | tert-butyldimethylsilyl chloride | 60.0 mmol, 9.04 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 65.0 mmol, 4.42 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 65.0 mmol, 2.60 g | [H-].[Na+]
reactant | dimethylforamide | CN(C=O)C | C3H7NO
reactant | DMF | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | (S)-2-[[4-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]phenoxy]methyl]oxirane | CC(C)(C)[Si](OC1=CC=C(OC[C@H]2OC2)C=C1)(C)C | C15H24O3Si
